US06562828B1
2-Chloromethyl-1-(cyclohexylcarbamoylmethyl)-5-cyanobenzimidazole
To a solution of chloroacetonitrile (3.9 ml) in methanol (166 ml) was added sodium methoxide (3.29 g), and the mixture was stirred at room temperature for 40 min under a nitrogen atmosphere. Methanesulfonic acid (7.91 ml) and 3-amino4-(cyclohexylcarbamoylmethylamino)benzonitrile (8.3 g) were added, and the mixture was stirred for 3 hours. After completion of the reaction, water (166 ml) was added and the precipitated solid was collected by filtration, and washed with a small amount of water. The obtained solid was stirred in a mixture of hexane and tetrahydrofuran, collected by filtration and dried under reduced pressure to give the title compound (9.30 g).

reactant | chloroacetonitrile | 3.9 ml | ClCC#N | C2H2ClN
reactant | sodium methoxide | 3.29 g | C[O-].[Na+]
reactant | Methanesulfonic acid | 7.91 ml | CS(=O)(=O)O | CH4O3S
reactant | 3-amino4-(cyclohexylcarbamoylmethylamino)benzonitrile | 8.3 g | NC=1C=C(C#N)C=CC1NCC(NC1CCCCC1)=O | C15H20N4O
solvent | methanol | 166 ml | CO | CH4O
solvent | water | 166 ml | O | H2O
product | 2-Chloromethyl-1-(cyclohexylcarbamoylmethyl)-5-cyanobenzimidazole | 9.30 g | ClCC1=NC2=C(N1CC(NC1CCCCC1)=O)C=CC(=C2)C#N | C17H19ClN4O
